US08580841B2
Preparation of 2-(7-(4-Neopentyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid (Compound 15)
Ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (200 mg, 0.443 mmol) was dissolved in THF (7.0 mL) and neopentylzinc(II) iodide (2.66 mL of a 0.5 M solution in THF) and bis(tri-t-butylphosphine)palladium(0) (0.011 g, 0.022 mmol) were added. The reaction mixture was stirred at room temperature for 16 h and then warmed to 50° C. After stirring for 24 h, neopentylzinc(II) iodide (5.0 mL of a 0.5 M solution in THF) was added and the reaction mixture was heated to 90° C. The reaction vessel was cooled to room temperature before 1.0 M LiOH (5 mL) and dioxane (5.0 mL) were added. After stirring for 24 h, the reaction was acidified with 1.0 M HCl to pH 3 and extracted three times with EtOAc. The combined extracts were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by HPLC. The purified fractions were neutralized with sodium bicarbonate and then acidified to pH 5 with 1.0 M citric acid. The aqueous mixture was extracted with EtOAc and the organic layer was washed two times with water. The EtOAc layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the title compound (12.3 mg). LCMS m/z=460.6 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 0.96 (s, 9H), 2.08-2.19 (m, 1H), 2.61 (dd, J=17.0, 10.9 Hz, 1H), 2.73-2.90 (m, 6H), 3.54-3.63 (m, 1H), 5.09 (s, 2H), 6.85 (dd, J=8.8, 2.5 Hz, 1H), 7.0 (d, J=2.5 Hz, 1H), 7.22 (d, J=9.0 Hz, 1H), 7.36 (d, J=8.0 Hz, 1H), 7.55 (d, J=8.1 Hz, 1H), 7.74 (d, J=1.1 Hz, 1H), 8.29 (bs, 1H).

reactant | Ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.443 mmol, 200 mg | ClC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C23H21ClF3NO3
reactant | neopentylzinc(II) iodide | [I-].C(C(C)(C)C)[Zn+]
reactant | LiOH | 1.0 M, 5 mL | [Li+].[OH-]
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.022 mmol, 0.011 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 2-(7-(4-Neopentyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 12.3 mg | C(C(C)(C)C)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C26H28F3NO3
